US05939451
0.50 g (0.00167 mol) of 4-amino-N-(2-amino-6-chloro-pyrimidin-4-yl)-benzenesufonamide and 11 ml (0.167 mol) of ethylamine were dissolved in 20 ml of ethanol and stirred in an autoclave at 130° C. for 4 hours. The reaction mixture was freed from solvent, the residue was suspended in 5 ml of ethanol and treated in an ultrasound bath for 15 minutes. The precipitate was filtered off, dissolved 10 ml of 0.1N NaOH and filtered. The filtrate was adjusted to pH 6 with 0.1N HCl. The precipitate was filtered off under suction, washed with water and dried. There was obtained 0.271 g (53%) of 4-amino-N-(2-amino-6-ethylamino-pyrimidin-4-yl)-benzenesulfonamide as beige crystals; m.p. 272-274° C.

reactant | 4-amino-N-(2-amino-6-chloro-pyrimidin-4-yl)-benzenesufonamide | 0.00167 mol, 0.50 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)N | C10H10ClN5O2S
reactant | ethylamine | 0.167 mol, 11 ml | C(C)N | C2H7N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-amino-N-(2-amino-6-ethylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.271 g, 53% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCC)N | C12H16N6O2S
